US07326791B2
4-[3-(2-aminoethyl)piperidin-1-ylcarbonyl]-3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)benzamide
Prepared analogously to Example 1d from 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-carboxybenzamide, tert-butyl (2-piperidin-3-ylethyl)carbamate, TBTU, and triethylamine in DMSO at ambient temperature followed by Boc cleaving with trifluoroacetic acid analogously to Example 17. HPLC-MS results: retention time: 3.01 minutes; C23H25Cl2N5O2 (474.39); mass spectrum: (M+H)+=474.2.

reactant | 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-carboxybenzamide | ClC=1C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)O | C16H11Cl2N3O3
reactant | tert-butyl (2-piperidin-3-ylethyl)carbamate | N1CC(CCC1)CCNC(OC(C)(C)C)=O | C12H24N2O2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-[3-(2-aminoethyl)piperidin-1-ylcarbonyl]-3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)benzamide | NCCC1CN(CCC1)C(=O)C1=C(C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=C1)Cl | C23H25Cl2N5O2
